US03960850
DL-α-[(Methoxycarbonyl)oxy]phenylacetic acid
60 gms. (0.4 moles) of DL-mandelic acid are dissolved in 50 ml. of tetrahydrofuran. 50 gms. (0.4 moles) of dimethylaniline are added and the mixture is cooled to -20°. 45 gms. (0.5 moles) of methyl chloroformate are added with vigorous stirring. After 30 minutes, the reaction mixture is poured into 500 ml. of ice-water and extracted with ethyl acetate. The organic phase is washed with 100 ml. of 2N HCl solution and concentrated after drying over sodium sulfate. A light oil is obtained which crystallizes on standing overnight. The product, DL-α-[(methoxycarbonyl)oxy]-phenylacetic acid is recrystallized from cyclohexane to obtain white crystals, m.p. 103°-105°.

reactant | DL-mandelic acid | 0.4 moles | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | dimethylaniline | 0.4 moles | CN(C1=CC=CC=C1)C | C8H11N
reactant | methyl chloroformate | 0.5 moles | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-[(Methoxycarbonyl)oxy]phenylacetic acid | COC(=O)OC(C(=O)O)C1=CC=CC=C1 | C10H10O5
